US07977371B2
2-Aminocarbonylamino-5-(4-bromophenyl)pyrrole-3-carboxamide (Compound No. 1-1)
Trichloroacetyl isocyanate (60 μL, 0.50 mmol) was added dropwise to a solution of 2-amino-5-(4-bromophenyl)pyrrole-3-carboxamide (Reference compound No. 1-1, 0.17 g, 0.60 mmol) in anhydrous tetrahydrofuran (3.0 mL) at −40° C. and the mixture was stirred for 1 hour. Furthermore, ammonia solution 2.0 M in methanol (3.0 mL, 6.0 mmol) was added thereto, and the whole was stirred at room temperature for 3 days. Water (20 mL) was added to the reaction solution, then the precipitated solid was filtered off. The obtained solid was dried under reduced pressure to give the target compound (0.070 g) as a brown solid (Yield 36%).

reactant | Trichloroacetyl isocyanate | 0.50 mmol, 60 μL | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | 2-amino-5-(4-bromophenyl)pyrrole-3-carboxamide | NC=1NC(=CC1C(=O)N)C1=CC=C(C=C1)Br | C11H10BrN3O
reactant | ammonia | 2.0 M | N | H3N
reactant | methanol | 6.0 mmol, 3.0 mL | CO | CH4O
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
solvent | Water | 20 mL | O | H2O
product | 2-Aminocarbonylamino-5-(4-bromophenyl)pyrrole-3-carboxamide | 0.070 g, Yield 36% | NC(=O)NC=1NC(=CC1C(=O)N)C1=CC=C(C=C1)Br | C12H11BrN4O2
